US06096688
A solution of sodium hydroxide (0.96 g, 24 mmol) in water (25 ml) is added to a stirred solution of 5-tert-butyl-oxazole .2-carboxylic acid ethyl ester (3.94 g, 20 mmol) In ethanol (35 ml), and the mixture is warmed to 60° C. and stirred for 1 h. The ethanol is then removed by distillation and the aqueous residue is washed with diethyl ether and acidified with 5 N hydrochloric acid. The resulting precipitate is collected by filtration and dried to give 5-tert-butyl-oxazole-2-carboxylic acid (2.30 g, 68%) as beige crystals. This material is used immediately without further purification since, on prolonged storage, it undergoes spontaneous decarboxylation to 5-tert-butyl-oxazole.

reactant | sodium hydroxide | 24 mmol, 0.96 g | [OH-].[Na+]
reactant | 5-tert-butyl-oxazole | C(C)(C)(C)C1=CN=CO1 | C7H11NO
reactant | ethanol | 35 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 5-tert-butyl-oxazole-2-carboxylic acid | 2.30 g, 68% | C(C)(C)(C)C1=CN=C(O1)C(=O)O | C8H11NO3
